US04271166
N-[5-(3-fluoromethoxyphenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide
The preferred compounds of this invention are N-[5-(4-chlorophenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethylbenzamide, N-[5-(4-chlorophenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide, N-[5-(4-fluorophenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethylbenzamide, N-[5-(4-trifluoromethylphenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethylbenzamide, N-[5-(4-fluorophenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide, N-[5-(3-trifluoromethylphenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide, N-[5-(2-benzo[b]furyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide, N-[5-(3-chlorophenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide, N-[5-[3,5-bis(trifluoromethyl)phenyl]-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide, N-[5-(4-trifluoromethylphenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide, N-[5-(5-fluoro-2-benzo[b]furyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide, N-[5-(5-chloro-2-benzo[b]furyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide and N-[5-(4-pentafluoroethoxyphenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide.

reactant | N-[5-(4-chlorophenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethylbenzamide | ClC1=CC=C(C=C1)C1=NN=C(S1)NC(C1=C(C=CC=C1C)C)=O | C17H14ClN3OS
reactant | N-[5-(4-chlorophenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide | ClC1=CC=C(C=C1)C1=NN=C(S1)NC(C1=C(C=CC=C1OC)OC)=O | C17H14ClN3O3S
reactant | N-[5-(4-fluorophenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethylbenzamide | FC1=CC=C(C=C1)C1=NN=C(S1)NC(C1=C(C=CC=C1C)C)=O | C17H14FN3OS
reactant | N-[5-(4-trifluoromethylphenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethylbenzamide | FC(C1=CC=C(C=C1)C1=NN=C(S1)NC(C1=C(C=CC=C1C)C)=O)(F)F | C18H14F3N3OS
reactant | N-[5-(4-fluorophenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide | FC1=CC=C(C=C1)C1=NN=C(S1)NC(C1=C(C=CC=C1OC)OC)=O | C17H14FN3O3S
reactant | N-[5-(3-trifluoromethylphenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide | FC(C=1C=C(C=CC1)C1=NN=C(S1)NC(C1=C(C=CC=C1OC)OC)=O)(F)F | C18H14F3N3O3S
reactant | N-[5-(2-benzo[b]furyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide | O1C2=C(C=C1C1=NN=C(S1)NC(C1=C(C=CC=C1OC)OC)=O)C=CC=C2 | C19H15N3O4S
reactant | N-[5-(3-chlorophenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide | ClC=1C=C(C=CC1)C1=NN=C(S1)NC(C1=C(C=CC=C1OC)OC)=O | C17H14ClN3O3S
reactant | N-[5-[3,5-bis(trifluoromethyl)phenyl]-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN=C(S1)NC(C1=C(C=CC=C1OC)OC)=O)(F)F | C19H13F6N3O3S
reactant | N-[5-(4-trifluoromethylphenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide | FC(C1=CC=C(C=C1)C1=NN=C(S1)NC(C1=C(C=CC=C1OC)OC)=O)(F)F | C18H14F3N3O3S
reactant | N-[5-(5-fluoro-2-benzo[b]furyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide | FC1=CC2=C(OC(=C2)C2=NN=C(S2)NC(C2=C(C=CC=C2OC)OC)=O)C=C1 | C19H14FN3O4S
reactant | N-[5-(5-chloro-2-benzo[b]furyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide | ClC1=CC2=C(OC(=C2)C2=NN=C(S2)NC(C2=C(C=CC=C2OC)OC)=O)C=C1 | C19H14ClN3O4S
reactant | N-[5-(4-pentafluoroethoxyphenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide | FC(C(F)(F)F)(OC1=CC=C(C=C1)C1=NN=C(S1)NC(C1=C(C=CC=C1OC)OC)=O)F | C19H14F5N3O4S
product | N-[5-(3-fluoromethoxyphenyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide | FCOC=1C=C(C=CC1)C1=NN=C(S1)NC(C1=C(C=CC=C1OC)OC)=O | C18H16FN3O4S
